US07001917B2
Step 1. 3-Phenyl-2,4-heptanedione
To a stirred mixture of 2,4-octanedione (568 mg, 4.0 mmol) and iodobenzene (408 mg, 2.0 mmol) in dimethylsulfoxide (10 mL) were added copper(I) iodide (380 mg, 2.0 mg) and potassium carbonate (1.10 g, 8.0 mmol). The mixture was heated at 120° C. for 4 h. The mixture was filtered through a pad of Celite and the filtrate was partitioned between ether and water. Organic layer was dried (Na2SO4) and the solvent was removed. The crude product was purified by TLC with hexane/ethyl acetate (4:1) to afford 199 mg (46%) of the title compound as colorless oil: 1H-NMR (CDCl3) δ 7.42-7.33 (3H, m), 7.18-7.15 (2H, m), 2.11 (2H, t, J=8.3 Hz), 1.87 (3H, s), 1.58-1.44 (3H, m), 1.25-1.16 (2H, m), 0.79 (3H, t, J=7.2 Hz).

reactant | 2,4-octanedione | 4.0 mmol, 568 mg | CC(CC(CCCC)=O)=O | C8H14O2
reactant | iodobenzene | 2.0 mmol, 408 mg | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 8.0 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 380 mg | [Cu]I
product | 3-Phenyl-2,4-heptanedione | 199 mg, 46% | C1(=CC=CC=C1)C(C(C)=O)C(CCC)=O | C13H16O2
